US04296120
N-Octyl-2-methyl-3-[3-(4-carboxy-2-oxo-pyrrolidino)phenyl]propenamide
A mixture of 4.3 g. of N-octyl-2-methyl-3-(3-aminophenyl)propenamide and 2.0 g. of itaconic acid was heated at ca. 140° C. for 1.25 hours. The reaction mixture was allowed to cool somewhat and then a small volume of ethyl acetate was added. This gave a clear solution. The solution was diluted to ca. 75 ml. with further ethyl acetate, and then it was extracted with 1 N potassium hydroxide. The potassium hydroxide solution was washed with ethyl acetate and then it was acidified using concentrated hydrochloric acid. This caused a gum to precipitate. The gum was extracted into ethyl acetate, and the ethyl acetate solution was dried using sodium sulfate. The dried solution was evaporated in vacuo to give 4.5 g. of an oil. The oil was triturated under ether causing formation of a solid. The solid was collected by filtration to give 2.5 g. of a solid, which was recrystallized from ethyl acetate-cyclohexane and then from acetonitrile. This afforded 1.3 g. of the title compound, m.p. 120°-121° C.

reactant | N-octyl-2-methyl-3-(3-aminophenyl)propenamide | C(CCCCCCC)NC(C(=CC1=CC(=CC=C1)N)C)=O | C18H28N2O
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Octyl-2-methyl-3-[3-(4-carboxy-2-oxo-pyrrolidino)phenyl]propenamide | C(CCCCCCC)NC(C(=CC1=CC(=CC=C1)N1C(CC(C1)C(=O)O)=O)C)=O | C23H32N2O4
